US07915267B2
ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate
To a suspension of ethyl ((2-(aminocarbonyl)-4-fluorophenyl)amino)(oxo)acetate (1.50 g, 5.90 mmol) in ethanol (30 mL) was added dropwise sodium ethylate (20% ethanol solution, 2.40 g, 7.08 mmol) under ice-cooling, and the mixture was stirred for 2 hr. The reaction mixture was adjusted to pH 3-4 with 1N hydrochloric acid, and the precipitated insoluble material was collected by filtration. The filtered cake was washed with water and ethanol to give the title compound as a white powder (1.05 g, 75%).

reactant | ethyl ((2-(aminocarbonyl)-4-fluorophenyl)amino)(oxo)acetate | 5.90 mmol, 1.50 g | NC(=O)C1=C(C=CC(=C1)F)NC(C(=O)OCC)=O | C11H11FN2O4
reactant | sodium ethylate | 7.08 mmol, 2.40 g | CC[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 1.05 g, 75% | FC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9FN2O3
